US06255305B1
a) 3,6-Dichloro-4-cyclopentylpyridazine
3,6-Dichloropyridazine (10 g) was suspe n ded in water (200 ml), conc. H2SO4 (19.7 g) and cyclopentane carboxylic acid (32.7 g) was added and the reaction degassed under N2 at 70° C. Silver nitrate (2.28 g) was added followed by dropwise a ddition of ammonium persulfate (45.9 g) in water (120 ml). After ail additional one hour heating at 70° C., the reaction was poured onto ice, basfied to pH 8-9 with aqueous ammonium hydroxide and extracted into ethyl acetate (3×500 ml), dried (MgSO4) and evaporated to dryness. Purified with hexane-ethyl acetate mixtures to obtain pure product (13.4 g). 1H NMR (360 MHz, CDCl3) δ1.57 (2 H, m), 1.82 (4 H, m), 2.20 (1 H, m), 3.30 (1 H, m), 7.38 (1 H, s); MS (ES+) m/e 217 [MH]+.

reactant | 3,6-Dichloropyridazine | 10 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | H2SO4 | 19.7 g | OS(=O)(=O)O | H2O4S
reactant | cyclopentane carboxylic acid | 32.7 g | C1(CCCC1)C(=O)O | C6H10O2
solvent | water | 200 ml | O | H2O
product | 3,6-Dichloro-4-cyclopentylpyridazine | 13.4 g | ClC=1N=NC(=CC1C1CCCC1)Cl | C9H10Cl2N2
